US05840751
3-(Biphen-2-ylmethylthio)-5,6-dihydro-4-hydroxy-6-(3-methylbutyl) -6-phenyl-2H-pyran-2 -one (+/-).
The title compound was prepared as described in General Method 7 using the following: 5,6-dihydro-4-hydroxy-6-phenyl-6-(3-methylbutyl)-2H-pyran-2-one (0.250 g, 0.96 mmol), (2-methylbiphenyl)-p-toluenethiosulfonate (0.439 g, 1.24 mmol), Et3N (0.17 mL, 1.24 mmol), absolute ethanol (3.0 mL), NaHCO3 (0.5 g). The mixture was heated to 40° C. for 16 h then diluted with diethyl ether (100 mL), and washed with H2O. The solvent was then removed in vacuo and the residue submitted to column chromatography (SiO2, 100% CH2Cl2 to 2% methanol in CH2Cl2) to provide a solid (0.33 g, m.p. 49°-51° C.). 1H NMR (400 MHz, DMSO-d6) δ 7.425-7.153 (m, 13 H), 7.74 (dd, 1 H, J=1 Hz, J=7 Hz), 3.480 (dd, 2 H, J=12 Hz, J=17 Hz), 3.149 (dd, 2 H, J=17 Hz, J=22 Hz), 1.921-1.821 (m, 2 H), 1.402-1.336 (m, 1 H), 1.161-1.071 (m, 1 H), 0.847-0.707 (m, 7 H).

reactant | 5,6-dihydro-4-hydroxy-6-phenyl-6-(3-methylbutyl)-2H-pyran-2-one | 0.96 mmol, 0.250 g | OC1=CC(OC(C1)(CCC(C)C)C1=CC=CC=C1)=O | C16H20O3
reactant | (2-methylbiphenyl)-p-toluenethiosulfonate | 1.24 mmol, 0.439 g | C1(=CC=C(C=C1)S(=O)(O)=S)C.CC1=C(C=CC=C1)C1=CC=CC=C1
reactant | Et3N | 1.24 mmol, 0.17 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 0.5 g | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 3-(Biphen-2-ylmethylthio)-5,6-dihydro-4-hydroxy-6-(3-methylbutyl) -6-phenyl-2H-pyran-2 -one | C1(=CC=CC=C1C1=CC=CC=C1)CSC=1C(OC(CC1O)(C1=CC=CC=C1)CCC(C)C)=O | C29H30O3S
